US08669234B2
To the solution of 3,9-dibromo-5,7-dihydro-dibenzo[c,e]oxepine (416 mg, 1.2 mmol) and tributyl(ethoxyvinyl)stannane (878 μl, 2.6 mmol) in dioxane (6 ml) was added PdCl2(PPh3)2 (30 mg). The mixture was heated at 80° C. for 16 hours and was cooled to 0° C. Water (2 ml) was added, followed by slow addition of NBS (464 mg, 2.6 mmol) over 5 minutes period. The mixture was stirred at 0° C. for additional 40 minutes, and the solvent was removed under reduced pressure. The mixture was diluted with EtOAc, and was washed with water and brine and dried with sodium sulfate. Concentration and purification by flash column chromatography (hexane/EtOAc) gave 2-bromo-1-(9-bromo-5,7-dihydro-dibenzo[c,e]oxepin-3-yl)-ethanone (120 mg).

reactant | 3,9-dibromo-5,7-dihydro-dibenzo[c,e]oxepine | 1.2 mmol, 416 mg | BrC=1C=CC2=C(COCC3=C2C=CC(=C3)Br)C1 | C14H10Br2O
reactant | tributyl(ethoxyvinyl)stannane | 2.6 mmol, 878 μl | C(CCC)[Sn](C=COCC)(CCCC)CCCC
reactant | Water | 2 ml | O | H2O
reactant | NBS | 2.6 mmol, 464 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-bromo-1-(9-bromo-5,7-dihydro-dibenzo[c,e]oxepin-3-yl)-ethanone | 120 mg | BrCC(=O)C=1C=CC2=C(COCC3=C2C=CC(=C3)Br)C1 | C16H12Br2O2
